US03989450
The product employed in a) can be obtained as follows: 15 g of 1,6-dinitro-anthraquinone and 30 ml of p-tert.-butylaniline are stirred at 125° C until no further dinitro-anthraquinone is detectable (approx. 6 hours being required). The warm mixture is diluted with 30 ml of ethylene glycol monomethyl ether, stirred until cold and filtered, and the residue is successively washed with ethylene glycol monomethyl ether and water. 13.9 g of 1-(p-tert.-butyl-anilino)-6-nitro-anthraquinone are obtained.

reactant | 1,6-dinitro-anthraquinone | 15 g | [N+](=O)([O-])C1=CC=CC=2C(C3=CC(=CC=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
reactant | p-tert.-butylaniline | 30 ml | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | dinitro-anthraquinone | [N+](=O)([O-])C1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)[N+](=O)[O-] | C14H6N2O6
solvent | ethylene glycol monomethyl ether | 30 ml | COCCO | C3H8O2
product | 1-(p-tert.-butyl-anilino)-6-nitro-anthraquinone | 13.9 g | C(C)(C)(C)C1=CC=C(NC2=CC=CC=3C(C4=CC(=CC=C4C(C23)=O)[N+](=O)[O-])=O)C=C1 | C24H20N2O4
